US07989444B2
2-methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine (0.13 mmol) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (0.16 mmol) and was obtained as a colourless slightly hygroscopic solid (24 mg).

reactant | 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine | 0.13 mmol | CC=1SC2=CC3=C(CCNCC3)C=C2N1 | C12H14N2S
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 0.16 mmol | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 2-methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC=1SC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1 | InChI=1S/C28H30N6S2.ClH/c1-18-8-9-22-23(6-4-7-24(22)29-18)27-31-32-28(33(27)3)35-15-5-12-34-13-10-20-16-25-26(36-19(2)30-25)17-21(20)11-14-34;/h4,6-9,16-17H,5,10-15H2,1-3H3;1H
